US08022072B2
To a solution of methyl 3-hydroxypicolinate (0.472 g, 3.08 mmol) in N,N-dimethylformamide (6 ml) were added 1-iodopropane (0.33 ml, 3.38 mmol) and potassium carbonate (0.519 g, 3.76 mmol), and the mixture was stirred at 80° C. for 3 hr. Ethyl acetate was added to the reaction mixture, the mixture was washed with water, and the organic layer was dried over sodium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate) to give methyl 3-propyloxypicolinate (0.418 g, 2.14 mmol, yield 69%). This was dissolved in methanol (5 ml), 1N-aqueous sodium hydroxide m solution (5 ml) was added at room temperature, and the mixture was stirred at 60° C. for 3.5 hr. The reaction mixture was concentrated under reduced pressure and neutralized with 5%-aqueous citric acid solution, and the mixture was extracted with ethyl acetate. The extract was dried over sodium sulfate, and the solvent was evaporated under reduced pressure to give a carboxylic acid compound 3-propyloxypicolinic acid (0.248 g, 1.37 mmol, yield 64%).

reactant | methyl 3-hydroxypicolinate | 3.08 mmol, 0.472 g | OC=1C(=NC=CC1)C(=O)OC | C7H7NO3
reactant | 1-iodopropane | 3.38 mmol, 0.33 ml | ICCC | C3H7I
reactant | potassium carbonate | 3.76 mmol, 0.519 g | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | methyl 3-propyloxypicolinate | 2.14 mmol, 0.418 g, yield 69% | C(CC)OC=1C(=NC=CC1)C(=O)OC | C10H13NO3
